US06677347B2
4,7-Dioxadecane-1,10-diamine (32.6 g, 0.185 mole) in acetonitrile (100 mL) was chilled in an ice bath. To this was slowly added dropwise dansyl chloride (5 g, 0.0185 mole) dissolved in acetonitrile (60 mL) over a 20 min. period. Stirring in an ice bath was continued for 1.5 hr. The reaction mixture was poured into water (about 300 mL) and extracted with dichloromethane (2×100 mL). The combined extracts were washed with water and dried to give an oil. The oil was purified by column chromatography (silica gel eluting with acetonitrile containing increasing amounts of ethanol) to provide 4.6 g of N-(10-amino-4,7-dioxadecyl)-5-dimethylaminonaphthalene-1-sulfonamide as a viscous oil.

reactant | 4,7-Dioxadecane-1,10-diamine | 0.185 mole, 32.6 g | C(CCOCCOCCCN)N | C8H20N2O2
reactant | dansyl chloride | 0.0185 mole, 5 g | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)Cl | C12H12ClNO2S
reactant | water | about 300 mL | O | H2O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | N-(10-amino-4,7-dioxadecyl)-5-dimethylaminonaphthalene-1-sulfonamide | 4.6 g | NCCCOCCOCCCNS(=O)(=O)C1=CC=CC2=C(C=CC=C12)N(C)C | C20H31N3O4S
